US06617339B1
3-(4-(4-(3-(1-Triphenylmethyl-4-imidazolyl)propanoyl)-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one
3-(1-Triphenylmethyl-4-imidazolyl)propionic acid (420 mg, 1.1 mmol) was suspended in dichloromethane (10 ml) under nitrogen, and treated successively with dicyclohexylcarbodiimide (227 mg, 1.1 mmol) and 1-hydroxybenzotriazole (149 mg, 1.1 mmol), then stirred at ambient temperature for 30 minutes. To it was added a solution of 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride (435 mg, 1 mmol) and N,N-diisopropylethylamine (258 mg, 2 mmol) in dichloromethane (5 ml). The mixture was stirred for 18 hours at the same temperature, solid filtered off, and the organic phase purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 15% MeOH in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (460 mg).

reactant | 3-(1-Triphenylmethyl-4-imidazolyl)propionic acid | 1.1 mmol, 420 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
reactant | dicyclohexylcarbodiimide | 1.1 mmol, 227 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 1.1 mmol, 149 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(4-(piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one dihydrochloride | 1 mmol, 435 mg | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F
reactant | N,N-diisopropylethylamine | 2 mmol, 258 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(4-(4-(3-(1-Triphenylmethyl-4-imidazolyl)propanoyl)-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)oxazolidin-2-one | 460 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H39FN6O5
